US04859698
A mixture of methoxyacetic acid (3 ml; 0.04 moles) and methoxyacetyl chloride (3 ml; 0.03 moles) was kept under stirring at 30° C. for 2 hours. To this mixture carnitine chloride (4 g; 0.02 moles) which had been previously dried was added. The resulting mixture was brought to 40° C. and kept under stirring for seven days. The mixture was then taken up with acetonitrile and the unreacted carnitine chloride was filtered off. Upon addition of tert-butyl methyl ether an oil precipitated. The oil precipitation was repeated four times with acetonitrile/tert butyl methyl ether. The oil which finally separated was lyophilized. Four grams of mthoxy acetyl carnitine chloride were thus obtained.

reactant | methoxyacetic acid | 0.04 moles, 3 ml | COCC(=O)O | C3H6O3
reactant | methoxyacetyl chloride | 0.03 moles, 3 ml | COCC(=O)Cl | C3H5ClO2
reactant | carnitine chloride | 0.02 moles, 4 g | C[N+](C)(C)CC(CC(=O)[O-])O | C7H15NO3
solvent | acetonitrile | C(C)#N | C2H3N
product | acetyl carnitine chloride | Four grams, Yield: 75% | C(C)(=O)C(O)(C[N+](C)(C)C)CC([O-])=O.[Cl-] | InChI=1S/C9H17NO4.ClH/c1-7(11)9(14,5-8(12)13)6-10(2,3)4;/h14H,5-6H2,1-4H3;1H/p-1
